US07205325B2
1-[4-(4-{2-[2-(4-Difluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole
0.286 g (1.00 mmol) 4-Chloromethyl-2-[2-(4-difluoromethoxy-phenyl)-vinyl]-oxazole, 0.217 g 1.00 mmol) 4-(4-[1,2,3]Triazol-1-yl-butyl)-phenol, 0.166 g (1.00 mmol) potassium iodide and 0.191 ml (1.00 mmol) of a 30% sodium methylate solution were added to 50.0 ml methanol and heated to reflux for 12 h. After removal of solvent, partitioning of the residue between 50 ml ethyl acetate and 15 ml water, the organic phase was washed with 10 ml water, 10 ml 0.1 N NaOH, 15 ml water twice and dried over sodium sulphate. The solution was concentrated to a volume of 5 ml until crystallisation of the product started. After leaving for 1 h at room temperature the precipitate was sucked off, washed with ether and dried at 40° C. in vacuo. Yield 0.20 g (43%) 3.

reactant | 4-Chloromethyl-2-[2-(4-difluoromethoxy-phenyl)-vinyl]-oxazole | 1.00 mmol, 0.286 g | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)F | C13H10ClF2NO2
reactant | 4-(4-[1,2,3]Triazol-1-yl-butyl)-phenol | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | potassium iodide | 1.00 mmol, 0.166 g | [I-].[K+]
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 50.0 ml | CO | CH4O
product | 1-[4-(4-{2-[2-(4-Difluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | FC(OC1=CC=C(C=C1)C=CC=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)F | C25H24F2N4O3
